US04609650
16β-Ethyl-17β-cyclohexylacetoxyacetoxy-4-estren-3-one
In 20 ml of acetone is dissolved 0.65 g of cyclohexylacetic acid, and 2.5 ml of 2N-NaOH, 1.0 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 20 ml of DMF are serially added to the above solution. The mixture is refluxed for 5 hours. After cooling, the reaction mixture is poured into a mixture of 100 ml of water and 150 ml of ethyl acetate. The ethyl acetate layer is separated and the aqueous layer is extracted with 100 ml of ethyl acetate. These organic layers are combined, washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to silica gel column chromatography. Following passage of 200 ml of n-hexane-diisopropyl ether (6:4), elution is carried out with 600 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 1.1 g of the above-identified compound as a light-yellow viscous oil.

reactant | cyclohexylacetic acid | 0.65 g | C1(CCCCC1)CC(=O)O | C8H14O2
reactant | NaOH | [OH-].[Na+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.0 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 16β-Ethyl-17β-cyclohexylacetoxyacetoxy-4-estren-3-one | 1.1 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CC2CCCCC2)=O)=O | C30H44O5
